### PR TITLE
Equation between Eq 167 and 168

### PR DESCRIPTION
**Pull request by MohanadAhmed**
# Rank One Update by Concatenation of inverse Equation
With $X$ an $(m+1)\times m$ matrix and $v$ a $(m+1)\times 1$ vector and $\alpha$ defined as:
$$\alpha = v^Tv - v^TXAX^Tv$$
and $A$ $A=(X^TX)^{-1}$ we have:

$$(\bar{X}^T\bar{X})\^{-1} =  \frac{1}{\alpha}\begin{bmatrix}
\alpha A +AX^TvvX^TA^T & -AX^Tv \\\\ 
-v^TXA^T & 1 \end{bmatrix}$$

In addition there are auxiliary lemmas:

- `reindex_equiv_eq_iff_matrix_eq (e₁ e₂ : n ≃ m) (A B: matrix n n R) `: two matrices A and B are equal if after re-indexing by an equivalent re-index set they are equal and vice versa.
- `reindex_equiv_eq_if_matrix_eq` and `matrix_eq_if_reindex_equiv`: give the forward and reverse directions of the lemmas above
- `rank_one_update_transpose_mul_self`: the rank one update by concatenation with a matrix when transposed and multiplied into itself can be expressed as a $2 \times 2$ block matrix.

This Pull Request starts from where PR #8 ends. The new changes in this PR are Equation between 167 and 168 and the lemmas mentioned above in two files `mat_vec_append.lean` and `reindex.lean' in the 'for_mathlib' folder.

### CODE REVIEW

**Comment by MohanadAhmed** [comment]
Seems mathlib upgrade broke two things:
1. `det_from_blocks₂₂` which has moved to `linear_algebra.matrix.schur_complement`. This I was able to fix by including the required file.

2. `has_deriv_at` in the `for_mathlib.analysis.matrix` file is no longer a know identifier. Seems its PR didn't merge yet or it was removed.

File: src/matrix_cookbook/for_mathlib/linear_algebra/matrix/reindex.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+lemma reindex_equiv_eq_if_matrix_eq (e₁ : m ≃ o) (e₂: n ≃ p) (A B: matrix m n R) : 
+  (reindex e₁ e₂ A = reindex e₁ e₂ B) → A = B :=
+begin
+  intro h,
+  rw ← matrix.ext_iff at h,
+  funext r s,
+  specialize h (e₁ r) (e₂ s),
+  simp only [reindex_apply, submatrix_apply, equiv.symm_apply_apply] at h,
+  exact h,
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/linear_algebra/matrix/reindex.lean:28]: This is `(reindex e₁ e₂).injective`

File: src/matrix_cookbook/for_mathlib/linear_algebra/matrix/reindex.lean [hunk 2]
```diff
@@ -0,0 +1,41 @@
...
+begin
+  rw [← matrix.ext_iff, reindex_apply, reindex_apply],
+  intro h,
+  funext r s,
+  apply h,
+end
+
+lemma reindex_equiv_eq_iff_matrix_eq (e₁ e₂ : n ≃ m) (A B: matrix n n R) : 
+  (reindex e₁ e₂ A = reindex e₁ e₂ B) ↔ A = B :=
+⟨ reindex_equiv_eq_if_matrix_eq _ _ _ _, matrix_eq_if_reindex_equiv _ _ _ _⟩
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/linear_algebra/matrix/reindex.lean:41]: This is [`equiv.apply_eq_iff_eq`](https://leanprover-community.github.io/mathlib_docs/logic/equiv/defs.html#equiv.apply_eq_iff_eq)

File: src/matrix_cookbook/for_mathlib/linear_algebra/matrix/reindex.lean
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/linear_algebra/matrix/reindex.lean:1]: Based on my comments below, I think this whole file can be discarded.

**Comment by eric-wieser** [comment]
> Seems mathlib upgrade broke two things:

I'll do a version bump separately
